US07183411B2
4-tert-Butyl-cyclohexylamine (69 mg, 0.44 mmol) and (7-hydroxy-naphthalen-1-yl)-carbamic acid phenyl ester (125 mg, 0.44 mmol) were combined and stirred at ambient temperature in DMSO (3 mL) overnight. The product was purified by directly injecting the crude reaction onto a reverse phase prep-HPLC (90–10% water:acetonitrile gradient). The appropriate fractions were lyophilized to yield 1-(4-tert-Butyl-cyclohexyl)-3-(7-hydroxy-naphthalen-1-yl)-urea

reactant | 4-tert-Butyl-cyclohexylamine | 0.44 mmol, 69 mg | C(C)(C)(C)C1CCC(CC1)N | C10H21N
reactant | (7-hydroxy-naphthalen-1-yl)-carbamic acid phenyl ester | 0.44 mmol, 125 mg | C1(=CC=CC=C1)OC(NC1=CC=CC2=CC=C(C=C12)O)=O | C17H13NO3
solvent | DMSO | 3 mL | CS(=O)C | C2H6OS
product | 1-(4-tert-Butyl-cyclohexyl)-3-(7-hydroxy-naphthalen-1-yl)-urea | C(C)(C)(C)C1CCC(CC1)NC(=O)NC1=CC=CC2=CC=C(C=C12)O | C21H28N2O2
